US07342115B2
Anhydrous isopropanol (1.5 mL, 20 mmol) is added to a suspension of NaH (1.5 g of 60% dispersion in mineral oil, 37 mmol) in THF (90 mL) at 0° C. and the mixture is stirred for 30 minutes at ambient temperature. To this is added a solution of 4,6-dichloro-2-methyl-nicotinic acid isopropyl ester (4.6 g, 19 mmol) in THF (10 mL) and CuI (178 mg, 0.94 mmol). The mixture is refluxed for 1 hour, cooled to room temperature, and poured into water-ice mixture. The layers are separated and the aqueous layer is extracted with EtOAc. The combined organic layers are dried (MgSO4) and concentrated in vacuo. The residue is purified by flash chromatography (elution with Hex/EtOAc 6:1) to yield 6-chloro-4-isopropoxy-2-methyl-nicotinic acid isopropyl ester as a pale yellow oil. 1H NMR (CDCl3) 6.65 (s, 1H), 5.24 (m, 1H), 4.60 (m, 1H), 2.41 (s, 3H), 1.28 (d, 12H).

reactant | isopropanol | 20 mmol, 1.5 mL | C(C)(C)O | C3H8O
reactant | NaH | 37 mmol, 1.5 g | [H-].[Na+]
reactant | 4,6-dichloro-2-methyl-nicotinic acid isopropyl ester | 19 mmol, 4.6 g | C(C)(C)OC(C1=C(N=C(C=C1Cl)Cl)C)=O | C10H11Cl2NO2
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | CuI | 0.94 mmol, 178 mg | [Cu]I
product | 6-chloro-4-isopropoxy-2-methyl-nicotinic acid isopropyl ester | C(C)(C)OC(C1=C(N=C(C=C1OC(C)C)Cl)C)=O | C13H18ClNO3
